US06369075B1
Concentrated hydrochloric acid (1 mL, 2.5 volumes) was added to a solution of 7-(benzhydrylidene-amino)-quinoline-3-carboxylic acid ethyl ester (400 mg, 1.05 mmol, 1 equiv) in ethanol (4 mL, 10 volumes). The solution was stirred at room temperature for three hours and then concentrated. The residue was dissolved in ethyl acetate (20 mL, 50 volumes) and the organic layer was washed with 1 N hydrochloric acid (5×25 mL). The pH of the combined aqueous layer was then adjusted to about 8 with solid sodium hydroxide. The aqueous layer was then extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over sodium sulfate and concentrated to provide 7-amino-quinoline-3-carboxylic acid ethyl ester (155 mg, 68%) as a yellow solid. The crude solid can be further purified by flash column chromatography using silica gel (EM Science, Gibbstown, N.J., 230-400 mesh) in 60% ethyl acetate in hexanes if desired.

reactant | hydrochloric acid | 1 mL | Cl | ClH
reactant | 7-(benzhydrylidene-amino)-quinoline-3-carboxylic acid ethyl ester | 1.05 mmol, 400 mg, 1 equiv | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H20N2O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 7-amino-quinoline-3-carboxylic acid ethyl ester | 155 mg, 68% | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)N | C12H12N2O2
